US05254595
Following the procedure of Example 27, but starting from 1-acetyl-5-(2,3-epoxypropoxy)-1,2,3,4-tetrahydroquinoline (2.77 g) and 2-aminotetralin (1.49 g) in ethanol (30 ml), N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(1-acetyl-1,2,3,4-tetrahydroquinolin-5-yloxy)propanamine hydrochloride is obtained ((i): R=H, Ar=radical 66, wherein Z is methyl, and the chain is attached to position 2 of the tetralin moiety).

reactant | 1-acetyl-5-(2,3-epoxypropoxy)-1,2,3,4-tetrahydroquinoline | 2.77 g | C(C)(=O)N1CCCC2=C(C=CC=C12)OCC1CO1 | C14H17NO3
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(1-acetyl-1,2,3,4-tetrahydroquinolin-5-yloxy)propanamine hydrochloride | Cl.C1C(CCC2=CC=CC=C12)NCC(COC1=C2CCCN(C2=CC=C1)C(C)=O)O
product | 2-aminotetralin | 1.49 g | NC1CC2=CC=CC=C2CC1 | C10H13N
